US04029658
7. Allyl benzyl dimethylammonium chloride
27 grams of dimethylbenzyl amine was added to 15.4 grams of allyl chloride in 42.4 grams of ethyl acetate. The reaction was endothermic, with a crystalline product forming within 5 minutes. After 7 days standing at 25° C., the white solid was filtered, washed, and dried. The chloride content of the quaternary halide was 95.5% of theoretical.

reactant | dimethylbenzyl amine | 27 grams | CN(CC1=CC=CC=C1)C | C9H13N
reactant | allyl chloride | 15.4 grams | C(C=C)Cl | C3H5Cl
solvent | ethyl acetate | 42.4 grams | C(C)(=O)OCC | C4H8O2
product | Allyl benzyl dimethylammonium chloride | [Cl-].C(C=C)[N+](C)(C)CC1=CC=CC=C1 | InChI=1S/C12H18N.ClH/c1-4-10-13(2,3)11-12-8-6-5-7-9-12;/h4-9H,1,10-11H2,2-3H3;1H/q+1;/p-1
